US07705145B2
After repetition of the reduction step, a methylene chloride solution (894.3 kg) containing 2-amino-4-methoxy-5-(3-morpholinopropoxy)benzonitrile (81.6 kg) was added portionwise to tert-amyl alcohol (186 kg) and the resultant mixture was distilled until the temperature of the distillate reached 57° C. Additional tert-amyl alcohol (726 kg) was added portionwise and distillation was continued until the residual volume of the reaction mixture was approximately 770 liters. Potassium hydroxide (flaked form; 51 kg) was added and the mixture was heated to 79° C. for 4 hours. The resultant mixture was cooled to ambient temperature to provide a solution of 2-amino-4-methoxy-5-(3-morpholinopropoxy)benzamide which was used without being isolated.

reactant | 2-amino-4-methoxy-5-(3-morpholinopropoxy)benzonitrile | 81.6 kg | NC1=C(C#N)C=C(C(=C1)OC)OCCCN1CCOCC1 | C15H21N3O3
reactant | tert-amyl alcohol | 186 kg | C(C)(C)(CC)O | C5H12O
solvent | methylene chloride | 894.3 kg | C(Cl)Cl | CH2Cl2
product | 2-amino-4-methoxy-5-(3-morpholinopropoxy)benzamide | NC1=C(C(=O)N)C=C(C(=C1)OC)OCCCN1CCOCC1 | C15H23N3O4
